US08236826B2
Production of 1-{4-[4-(3,4-dichlorobenzoylamino)-phenoxy]phenyl}-4-hydroxypiperidine
To a solution of 1-{4-[4-(3,4-dichlorobenzoylamino)phenoxy]phenyl}-4-(methoxymethoxy)piperidine (5.50 g, 11.0 mmol) in ethanol (110 mL) was added 2 M hydrochloric acid (55 mL, 110 mmol), and the resulting solution was stirred for 8 hours at 60° C. To the resulting reaction solution was added potassium carbonate (16 g) at room temperature, and the solvent was evaporated under reduced pressure. Water (200 mL) was added to the residue. Precipitated crystals were collected by filtration, to thereby yield 5.0 g of the title compound.

reactant | 1-{4-[4-(3,4-dichlorobenzoylamino)phenoxy]phenyl}-4-(methoxymethoxy)piperidine | 11.0 mmol, 5.50 g | ClC=1C=C(C(=O)NC2=CC=C(OC3=CC=C(C=C3)N3CCC(CC3)OCOC)C=C2)C=CC1Cl | C26H26Cl2N2O4
reactant | hydrochloric acid | 110 mmol, 2 M, 55 mL | Cl | ClH
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | 1-{4-[4-(3,4-dichlorobenzoylamino)-phenoxy]phenyl}-4-hydroxypiperidine | ClC=1C=C(C(=O)NC2=CC=C(OC3=CC=C(C=C3)N3CCC(CC3)O)C=C2)C=CC1Cl | C24H22Cl2N2O3
